US07192968B2
(1R*,2R*)-1,2-Dihydroxy-4-methoxycyclopentane (1.21 g) and triethylamine (7.66 ml) were dissolved in dichloromethane (20 ml), and methanesulfonyl chloride (2.13 ml) was added dropwise over 20 minutes at −78° C. After completion of drop addition, the mixture was warmed to 0° C. and stirred for 80 minutes to obtain crude (1R*,2R*)-1,2-bis (methanesulfonyloxy)-4-methoxy-cyclopentane. This product was dissolved in N,N-dimethylformamide (20 ml), and sodium azide (3.57 g) was added. The mixture was stirred at 65° C. for 22 hours. Sodium azide (3.57 g) was additionally added to stir the mixture at 70° C. for 2 days. The reaction mixture was allowed to cool, and water and diethyl ether was added to separate an organic layer. The organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography on silica gel (hexane:ethyl acetate=2:1) to obtain the title compound (584 mg) as a colorless liquid.

reactant | (1R*,2R*)-1,2-Dihydroxy-4-methoxycyclopentane | 1.21 g | O[C@H]1[C@@H](CC(C1)OC)O | C6H12O3
reactant | triethylamine | 7.66 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.13 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (1R*,2R*)-1,2-bis (methanesulfonyloxy)-4-methoxy-cyclopentane | CS(=O)(=O)O[C@H]1[C@@H](CC(C1)OC)OS(=O)(=O)C | C8H16O7S2
